US05587504
Synthesis of Methyl 2-(4'-hydroxymethylphenyl)benzoate
4.0 g (17.5 mmol) of 2-(4'-hydroxymethylphenyl)benzoic acid was dissolved in methanol (50 ml). Sulfuric acid (1 ml) was added thereto, followed by heating under reflux for 8 hours. After conducting vacuum concentration, water was added thereto, followed by the extraction with chloroform. After the organic phase was washed with water and dried, it was subjected to vacuum concentration. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 3.8 g of the title compound as an oil (yield 89%).

reactant | 2-(4'-hydroxymethylphenyl)benzoic acid | 17.5 mmol, 4.0 g | OCC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | Sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 2-(4'-hydroxymethylphenyl)benzoate | 3.8 g, yield 89% | OCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H14O3
